US08236806B2
1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-(2,3-dimethylphenyl)piperazine (Compound 6)
39 mg (45%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal (50 mg, 0.195 mmol), 1-(2,3-dimethylphenyl)piperazine (35.4 mg, 0.186 mmol), DIPEA (49 mL, 0.279 mmol) and NaBH(OAc)3 (118 mg, 0.558 mmol).

reactant | 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal | 0.195 mmol, 50 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C16H20N2O
reactant | 1-(2,3-dimethylphenyl)piperazine | 0.186 mmol, 35.4 mg | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.279 mmol, 49 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.558 mmol, 118 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-4-(2,3-dimethylphenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCCN1CCN(CC1)C1=C(C(=CC=C1)C)C | C28H38N4
